US04024134
To a suspension of 2-dichloroacetoxyiminophenylacetic acid (syn-isomer) (0.276 g) in methylene chloride (10 ml) was added phosphorus pentachloride (0.208 g) and the mixture was stirred for one hour at room temperature, during which time solution took place. After removal of solvent under reduced pressure, benzene was evaporated from the residue, and the resulting oil freed from solvent under vacuum, giving 2-dichloroacetoxyiminophenylacetyl chloride (syn-isomer) (0.29 g., 100%), νmax. (liquid film) 1770 cm.-1 (COCl and CO2R).

reactant | 2-dichloroacetoxyiminophenylacetic acid | 0.276 g | ClC(C(=O)ON=C1C(C=CC=C1)CC(=O)O)Cl | C10H9Cl2NO4
reactant | phosphorus pentachloride | 0.208 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 2-dichloroacetoxyiminophenylacetyl chloride | 0.29 g, 100% | ClC(C(=O)ON=C1C(C=CC=C1)CC(=O)Cl)Cl | C10H8Cl3NO3
